US05554607
3-(3-Chloro-2-methylphenyl)-1-methyl-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 1 using 13.2 g of 3-chloro-2-methylphenyl-isothiocyanate, 11.0 g of sarcosine ethyl ester hydrochloride, 25 g of triethyl amine, and 300 mL of chloroform. Crystallization from diethyl ether afforded the title compound (15.2 g) as a tan solid, m.p. 122°-124° C. Anal. Calcd. for C11H11Cl N2O S: C, 51.87; H, 4.35; N,11.00. Found: C, 51.96; H, 4.21; N, 11.05. Mass spectrum (EI, M.+) m/z 254/256.

reactant | 3-chloro-2-methylphenyl-isothiocyanate | 13.2 g | ClC=1C(=C(C=CC1)N=C=S)C | C8H6ClNS
reactant | sarcosine ethyl ester hydrochloride | 11.0 g | Cl.C(C)OC(CNC)=O
reactant | triethyl amine | 25 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(3-Chloro-2-methylphenyl)-1-methyl-2-thioxo-imidazolidin-4-one | 15.2 g | ClC=1C(=C(C=CC1)N1C(N(CC1=O)C)=S)C | C11H11ClN2OS
